US07368578B2
A mixture of {3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}amine (100 mg), methanesulfonyl chloride (0.013 mL), triethylamine (0.024 mL) and tetrahydrofuran (1 mL) was stirred at room temperature for 1 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The eluate was subjected to reversed phase HPLC and eluted with acetonitrile-water (10:90-100:0, v/v). The obtained fraction was concentrated, and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give N-{3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}methanesulfonamide (37 mg, yield 33%). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 113-115° C.

reactant | {3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}amine | 100 mg | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)N)C=C1)OC | C35H33N5O4S
reactant | methanesulfonyl chloride | 0.013 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.024 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-{3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}methanesulfonamide | 37 mg, yield 33% | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)NS(=O)(=O)C)C=C1)OC | C36H35N5O6S2
